US04581429
Preparation of Methylacrylate/Ethylacrylate/Methyl Methacrylate ABC Triblock Copolymer of Structure 37
A degassed solution of the MA-EA diblock of Example 36 (80 mg) and di-t-butylnitroxide (0.025 mg) in methyl methacrylate (2 ml) was heated at 100° C. for 0.5 hr. The 1H NMR of the product (220 mg), obtained on evaporation of volatiles, indicated that approx. 60 methyl methacrylate units per chain on average, had added onto the MA-EA diblock to give the triblock of structure 37. 1H NMR (250 MHz) δ: 1.10 and 1.11 (O-t-butyl), 3.60 (COOCH3 of MMA), 3.68 (COOCH3 of MA), 4.0-4.2 (O--CH2CH3), 7.1-7.35 (ArH). The N-t-butyl signals of the starting material were no longer present. GPC: Mn =10500 (Mw /Mn =2.6) confirmed the expected increase in chain length.

reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | EA | CC(OCC)=O | C4H8O2
product | Methylacrylate Ethylacrylate Methyl Methacrylate | COC(C=C)=O.C(C)OC(C=C)=O.C(C(=C)C)(=O)OC | InChI=1S/2C5H8O2.C4H6O2/c1-4(2)5(6)7-3;1-3-5(6)7-4-2;1-3-4(5)6-2/h1H2,2-3H3;3H,1,4H2,2H3;3H,1H2,2H3
